US03931181
A mixture of 1.94 g. of 4-(2-cyano-3-morpholinoallyl)-2,6-diethoxy-benzoic acid ethyl ester, 3.6 g. of guanidine carbonate and 1.36 g. of sodium ethylate in 20 ml. of absolute dimethylsulfoxide are stirred for 20 hours at 120°. After the addition of 200 ml. of water, the mixture is extracted with two 200 ml. portions of ethyl acetate. The ethyl acetate phase is washed twice with 50 ml. of water, dried over magnesium sulfate and evaporated under vacuum. The residue is chromatographed with ethyl acetate/methanol (4:1) on 40 g. of Kieselgel, whereby there is obtained α-(2,4-diamino-5-pyrimidinyl)-2,6-diethoxy-p-toluic acid ethyl ester having a m.p. of 197°-199°.

reactant | 4-(2-cyano-3-morpholinoallyl)-2,6-diethoxy-benzoic acid ethyl ester | C(C)OC(C1=C(C=C(C=C1OCC)CC(=CN1CCOCC1)C#N)OCC)=O | C21H28N2O5
reactant | guanidine carbonate | C(O)(O)=O.NC(=N)N
reactant | sodium ethylate | CC[O-].[Na+]
reactant | dimethylsulfoxide | CS(=O)C | C2H6OS
product | α-(2,4-diamino-5-pyrimidinyl)-2,6-diethoxy-p-toluic acid ethyl ester | C(C)OC(=O)C1=CC(=C(C(=C1)OCC)CC=1C(=NC(=NC1)N)N)OCC | C18H24N4O4
